US07022707B2
4-Benzenesulfonyloxybenzyl piperazine-1-thiocarboxylate hydrochloride:
to a stirred solution of 4-benzenesulfonyloxybenzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate (44 mg) in ethyl acetate (2 mL) was added hydrogen chloride solution (4M, dioxane, 0.23 mL). The mixture was stirred for 18 h then concentrated under vacuum to give the product as a white crystalline solid (31 mg, 78%): HPLC (XTERRA, 50/80, 220 nm) 98.4% (2.54 min); NMR δH (400 MHz, DMSO-d6) 3.100(4H, bt), 3.672(4H, bt), 4.123(2H, s), 6.976(2H, d, J 8.5 Hz), 7.341(2H, d, J 9.0 Hz), 7.680(2H, t, J 8.0 Hz), 7.826(1H, t, J 7.5 Hz), 7.870(2H, d, J 7.0 Hz) and 9.258(2H, bs).

reactant | 4-benzenesulfonyloxybenzyl 4-tert-butoxycarbonylpiperazine-1-thiocarboxylate | 44 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(OCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=CC=C1)=S | C23H28N2O6S2
reactant | hydrogen chloride | 4M, 0.23 mL | Cl | ClH
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | 4-Benzenesulfonyloxybenzyl piperazine-1-thiocarboxylate hydrochloride | 31 mg, 78% | Cl.N1(CCNCC1)C(OCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=CC=C1)=S | InChI=1S/C18H20N2O4S2.ClH/c21-26(22,17-4-2-1-3-5-17)24-16-8-6-15(7-9-16)14-23-18(25)20-12-10-19-11-13-20;/h1-9,19H,10-14H2;1H
